US09388161B2
Benzyl bromide (0.42 mL, 3.56 mmol) and potassium carbonate (670 mg, 4.85 mmol) were added to a solution of 4-(4-bromo-1H-pyrazol-1-yl)piperidine (743.7 mg, 3.23 mmol) in DMF (10 mL), and the reaction stirred at room temperature overnight. The reaction was quenched with the addition of water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic extracts were combined and washed with water (2×50 mL) and brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 20-30% ethyl acetate in hexanes) to afford 1-benzyl-4-(4-bromo-1H-pyrazol-1-yl)piperidine (673 mg, 65%) as a light yellow oil. MS (ESI, pos. ion) m/z 321 [M+H]+.

reactant | Benzyl bromide | 3.56 mmol, 0.42 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.85 mmol, 670 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-bromo-1H-pyrazol-1-yl)piperidine | 3.23 mmol, 743.7 mg | BrC=1C=NN(C1)C1CCNCC1 | C8H12BrN3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-4-(4-bromo-1H-pyrazol-1-yl)piperidine | 673 mg, 65% | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1)Br | C15H18BrN3
